US04302398
(a) To a solution of 84 ml of diisopropylamine in 250 ml of dry tetrahydrofuran at -78° C. under argon was added a solution of n-butyl lithium (39 ml, 1.6 mol) in hexane. The mixture was stirred for 10 minutes and then a solution of 12.32 g of methyl 4,4-ethylenedioxy-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate in 75 ml of dry tetrahydrofuran was added rapidly. The mixture was held at -78° C. while stirring for 50 minutes and then 27.8 g of finely ground diperoxo-oxohexamethylphosphoramidomolybdenum (VI) pyridine were added. After a further 80 minutes, the mixture was warmed to 0° C. and stirred for 20 minutes before the addition of 400 ml of water. After 10 minutes, most of the tetrahydrofuran was evaporated in vacuo and the aqueous residue was extracted with five 200 ml portions of ethyl acetate. The combined ethyl acetate extracts were dried over magnesium sulphate, filtered and evaporated to give an oil which was purified by chromatography on silica gel using ethyl acetate/hexane (1:1, vol/vol) for the elution. After the elution of 1.57 g of starting material, there were obtained 7.51 g (58%) of methyl rac-4,4-ethylenedioxy-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate in the form of colourless crystals of melting point 74°-75° C.

reactant | diisopropylamine | 84 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.6 mol, 39 ml | C(CCC)[Li]
reactant | methyl 4,4-ethylenedioxy-1,2,3,4-tetrahydro-5,8-dimethoxynaphthalene-2-carboxylate | 12.32 g | C1OC2(CC(CC3=C(C=CC(=C23)OC)OC)C(=O)OC)OC1 | C16H20O6
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | methyl rac-4,4-ethylenedioxy-1,2,3,4-tetrahydro-2-hydroxy-5,8-dimethoxynaphthalene-2-carboxylate | 7.51 g, 58% | C1OC2(CC(CC3=C(C=CC(=C23)OC)OC)(C(=O)OC)O)OC1 | C16H20O7
